US05223526
1-(Cyclohexylidenemethyl)-2-nitrobenzene (3.45 g), prepared as above, glacial acetic acid (30 mL), ethanol (50 mL), and a catalytic amount of 10%Pd/C were shaken on a Parr Hydrogenator under a atmosphere of hydrogen at 23° C. for 24 h. The mixture was filtered through clay and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 10% EtOAc/hexanes to give 2-(cyclohexylmethyl)aniline.

reactant | 1-(Cyclohexylidenemethyl)-2-nitrobenzene | 3.45 g | C1(CCCCC1)=CC1=C(C=CC=C1)[N+](=O)[O-] | C13H15NO2
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(cyclohexylmethyl)aniline | C1(CCCCC1)CC1=C(N)C=CC=C1 | C13H19N
